US08703742B2
tert-Butyl 3-bromopropylcarbamate
To a mixture of 3-bromopropan-1-amine (10.95 g, 50 mmol) and TEA (15.4 mL, 110 mmol) in DCM (100 ml) at 0° C. was added (Boc)2O (11.4 g, 52.5 mmol). The reaction mixture was stirred at room temperature overnight and then washed with water (3×100 mL) and the solution of citric acid (100 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated to give the product as yellow oil (9.0 g, yield 76%).

reactant | 3-bromopropan-1-amine | 50 mmol, 10.95 g | BrCCCN | C3H8BrN
reactant | (Boc)2O | 52.5 mmol, 11.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-bromopropylcarbamate | 9.0 g, yield 76% | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
